US05886014
N-t-Butoxycarbonyl-4-hydroxy-2,3,5-trimethylaniline
22.0 ml of triethylamine were added at room temperature to a solution of 20 g of 4-hydroxy-2,3,5-trimethylaniline (prepared as described in Preparation 12) in 500 ml of tetrahydrofuran, followed by 34.6 g of di-t-butyl dicarbonate, and the resulting mixture was stirred for 6 hours, after which it was allowed to stand overnight. At the end of this time, the reaction mixture was freed from the solvent by distillation under reduced pressure, and the resulting residue was mixed with water. The resulting aqueous mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, after which the crystalline residue was triturated with hexane, to give 31.9 g of the title compound, melting at 158°-161° C.

reactant | triethylamine | 22.0 ml | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxy-2,3,5-trimethylaniline | 20 g | OC1=C(C(=C(N)C=C1C)C)C | C9H13NO
reactant | di-t-butyl dicarbonate | 34.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | N-t-Butoxycarbonyl-4-hydroxy-2,3,5-trimethylaniline | 31.9 g | C(C)(C)(C)OC(=O)NC1=C(C(=C(C(=C1)C)O)C)C | C14H21NO3
